US05650422
A mixture of 2-benzyl-4-ethoxy-6-allyl-7-hydroxysaccharin (2.45 g), potassium carbonate (2.76 g) and methyl iodide (1.84 g) in acetone was heated at 50° C. with stirring for two hours, then poured with stirring into ice-water (500 mL). The resulting gooey precipitate crystallized overnight affording 2-benzyl-4-ethoxy-6-allyl-7-methoxysaccharin, 2.35 g, 92% yield, mp 92°-94° C.

reactant | 2-benzyl-4-ethoxy-6-allyl-7-hydroxysaccharin | 2.45 g | C(C1=CC=CC=C1)N1S(=O)(=O)C2=C(C(=CC(=C2C1=O)OCC)CC=C)O | C19H19NO5S
reactant | potassium carbonate | 2.76 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl iodide | 1.84 g | CI | CH3I
solvent | acetone | CC(=O)C | C3H6O
product | 2-benzyl-4-ethoxy-6-allyl-7-methoxysaccharin | 92% yield | C(C1=CC=CC=C1)N1S(=O)(=O)C2=C(C(=CC(=C2C1=O)OCC)CC=C)OC | C20H21NO5S
